US07312330B2
7-Benzyl-5,6,7,8-tetrahydro-N-(quinolin-3-yl)pyrido[3,4-d]pyrimidin-4-amine
Sodium iodide (434 mg, 2.9 mmol) and hydriodic acid (0.4 mL, 47% aqueous solution) were added to a mixture of 7-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (500 mg, 1.93 mmol) and 3-aminoquinoline (418 mg, 2.9 mmol) in dioxane (4 mL) and the reaction solution was heated in a sealed tube via microwave at 150° C. for 20 min. The solvent was removed under reduced pressure. The residue was suspended in water, solid sodium carbonate was added to a pH>8, and the mixture was extracted with ethyl acetate. The organic layer was removed in vacuo and the residue was purified by column chromatography to yield the product as a beige solid (405 mg).

reactant | Sodium iodide | 2.9 mmol, 434 mg | [I-].[Na+]
reactant | hydriodic acid | 0.4 mL | I | HI
reactant | 7-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 1.93 mmol, 500 mg | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)Cl | C14H14ClN3
reactant | 3-aminoquinoline | 2.9 mmol, 418 mg | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 7-Benzyl-5,6,7,8-tetrahydro-N-(quinolin-3-yl)pyrido[3,4-d]pyrimidin-4-amine | 405 mg | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC=1C=NC2=CC=CC=C2C1 | C23H21N5
